US03959298
A solution of 15.4 g. of acetonine in 100 ml. of dimethylformamide was added with 19.0 g. of p-toluenesulfonic acid monohydrate. The mixture was stirred at room temperature for 8 hours, then allowed to stand overnight to complete the reaction. After completion of the reaction, the reaction mixture was added with 30% aqueous sodium hydroxide solution and extracted with ether. The extract was dried over anhydrous potassium carbonate and ether was distilled off. The resulting residue was purified by distillation under reduced pressure to obtain triacetonamine in a yield of 88.8%.

reactant | acetonine | CC1=NC(NC(C1)(C)C)(C)C | C9H18N2
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | triacetonamine | yield of 88.8% | CC1(CC(=O)CC(N1)(C)C)C | C9H17NO
